US04966975
Step (2) Preparation of 8-Amino-2-naphthoic Acid
According to the procedure of W. Adcock, et al. Aust. J. Chem. 18, 1351 (1965), a mixture of ethyl 8-amino-2-naphthoate (5.2 g, 0.024 mol), 1N NaOH (48 mL, 0.048 mol), and dioxane (50 mL) was stirred at room temperature for 3 hours. The dioxane was removed under reduced pressure, and the aqueous phase was diluted with H2O (100 mL) and extracted with ether. Neutralization with acetic acid produced a yellow precipitate which was collected by filtration (3.2 g, 71%), m.p. 221°-223° C.

reactant | ethyl 8-amino-2-naphthoate | 0.024 mol, 5.2 g | NC=1C=CC=C2C=CC(=CC12)C(=O)OCC | C13H13NO2
reactant | NaOH | 0.048 mol, 1N, 48 mL | [OH-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 8-Amino-2-naphthoic Acid | NC=1C=CC=C2C=CC(=CC12)C(=O)O | C11H9NO2
